US08119627B2
To an ice cooled solution of 4-[2-(2,4-dichlorophenoxy)-N-piperidin-4-ylbenzamide (AMR01077, 100 mg, 0.274 mmol) in dry DCM (5 mL) were added triethylamine (0.2 mL, 1.37 mmol) and methanesulphonyl chloride (0.125 mL, 1.6 mmol). The reaction mixture was stirred overnight at room temperature, and quenched with saturated NaHCO3. The resulting solution was extracted with DCM (3×20 mL), and the combined organic layers were washed with water and dried (MgSO4). The dessicant was filtered off and the resulting solution was treated with trisamine scavenger (100 mg) for 2 h. The scavenger was filtered off, and the solvent evaporated to dryness. Column chromatography of the crude product using DCM/MeOH 95:5 as eluent gave 2-(2,4-Dichloro-phenoxy)-N-(1-methanesulfonyl-piperidin-4-yl)-benzamide (86 mg, 72%) as a white solid. LC/MS (APCI) tr=4.56 min, m/z 445.32 (65), 443.31 (M++H, 100). HPLC tr=3.42 min (97.52%) 1H NMR (270 MHz, CDCl3) 1.56-1.69 (2H, m, CH2), 2.06 (2H, m, CH2), 2.75 (3H, s, CH3), 2.86 (2H, m, CH2), 3.68 (2H, m, CH2), 4.09 (1H, m, CH), 6.79 (1H, dd, J=8.2, 1.0 Hz, ArH), 6.88 (1H, d, J=8.9 Hz, ArH), 7.20-7.28 (2H, m, ArH), 7.38-7.42 (2H, m, ArH+NH), 7.51 (1H, d, J=2.5 Hz, ArH) and 8.15 (1H, dd, J=7.9, 2.0 Hz, ArH). 13C NMR (270 MHz, CDCl3) δ 31.47 (CH2), 34.83 (CH3), 44.96 (CH2), 46.28 (CH), 117.76, 120.77, 124.32, 124.83, 125.88, 128.59, 130.44, 130.88, 132.56, 133.04, 149.79, 153.56 (ArC), and 163.97 (C═O).

reactant | 2-(2,4-dichlorophenoxy)-N-piperidin-4-ylbenzamide | 0.274 mmol, 100 mg | ClC1=C(OC2=C(C(=O)NC3CCNCC3)C=CC=C2)C=CC(=C1)Cl | C18H18Cl2N2O2
reactant | triethylamine | 1.37 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 1.6 mmol, 0.125 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,4-Dichloro-phenoxy)-N-(1-methanesulfonyl-piperidin-4-yl)-benzamide | 86 mg, 72% | ClC1=C(OC2=C(C(=O)NC3CCN(CC3)S(=O)(=O)C)C=CC=C2)C=CC(=C1)Cl | C19H20Cl2N2O4S
